US04010202
In a mixture of 50 volume parts 48 % hydrobromic acid and 15 volume parts acetic anhydride is dissolved 5 parts of 2-cyclohexylamino-5,6-dimethoxy-3,4-dihydro-1(2H)-naphthalenone hydrochloride, and the solution is heated at 140°-160° C for about 3 hours. After cooling, the solvent is removed under reduced pressure and the residue is treated with activated carbon in ethanol. Following the addition of ethyl acetate, the filtrate is allowed to stand, whereby 2-cyclohexylamino-5,6-dihydroxy-3,4-dihydro-1(2H)-naphthalenone hydrobromide is obtained as colorless prisms. Yield 4.1 parts; melting point: 225°-237° C (decomposition).

reactant | hydrobromic acid | Br | BrH
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-cyclohexylamino-5,6-dimethoxy-3,4-dihydro-1(2H)-naphthalenone hydrochloride | Cl.C1(CCCCC1)NC1C(C2=CC=C(C(=C2CC1)OC)OC)=O
product | 2-cyclohexylamino-5,6-dihydroxy-3,4-dihydro-1(2H)-naphthalenone hydrobromide | Br.C1(CCCCC1)NC1C(C2=CC=C(C(=C2CC1)O)O)=O | InChI=1S/C16H21NO3.BrH/c18-14-9-7-11-12(16(14)20)6-8-13(15(11)19)17-10-4-2-1-3-5-10;/h7,9-10,13,17-18,20H,1-6,8H2;1H
